US07119115B2
0.193 cm3 of phosphorus oxychloride is added to a solution of 0.607 g of 6-dimethylaminomethylene-4,4-diphenylcyclohex-2-enone in 15 cm3 of dichloromethane. The mixture is heated to the reflux temperature and refluxing is maintained for about 3 hours. After cooling to a temperature in the region of 20° C., the solution is concentrated to dryness under reduced pressure (13 kPa). The residue is dissolved in 20 cm3 of tetrahydrofuran and 20 cm3 of water are added in a single portion. The mixture is refluxed for about 24 hours. After cooling to a temperature in the region of 20° C., the mixture is concentrated to dryness under reduced pressure (13 kPa). The residue is taken up in 10 cm3 of ethyl acetate. The solution is washed three times with 30 cm3 of water and then dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (13 kPa). 0.6 g of 2-chloro-5,5-diphenylcyclohexa-1,3-dienecarbaldehyde is thus obtained in the form of an orange-coloured resin, which is used without further modification in subsequent syntheses and the characteristics of which are as follows:

reactant | phosphorus oxychloride | 0.193 cm3 | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-dimethylaminomethylene-4,4-diphenylcyclohex-2-enone | 0.607 g | CN(C)C=C1CC(C=CC1=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H21NO
reactant | dichloromethane | 15 cm3 | ClCCl | CH2Cl2
product | 2-chloro-5,5-diphenylcyclohexa-1,3-dienecarbaldehyde | 0.6 g | ClC1=C(CC(C=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O | C19H15ClO
